US08242280B2
4 N aqueous lithium hydroxide (17 μl, 0.66 mmol) was added to hydroxy-{6-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-pyridin-2-yl}-acetic acid methyl ester (286 mg, 0.55 mmol) in water/methanol(3:1) (5 ml) and stirred at room temperature for 3 days. Water was added and the mixture was extracted with ethyl acetate (3×), the combined organic layers were dried over magnesium sulfate and purified by silica gel chromatography to give 5-hydroxy-{6-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-pyridin-2-yl}-acetic acid (174 mg, 61% yield) as an off white powder. MS: m/z 507.6 (M+H+).

reactant | lithium hydroxide | 0.66 mmol, 4 N, 17 μl | [OH-].[Li+]
reactant | hydroxy-{6-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-pyridin-2-yl}-acetic acid methyl ester | 0.55 mmol, 286 mg | COC(C(C1=NC(=CC=C1)C=1C=C2C(=NC1)N(N=C2C2=C(C=CC=C2)OC)COCC[Si](C)(C)C)O)=O | C27H32N4O5Si
reactant | Water | O | H2O
solvent | water methanol | 5 ml | O.CO
product | 5-hydroxy-{6-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-pyridin-2-yl}-acetic acid | 174 mg, 61% yield | OC=1C=CC(=NC1C=1C=C2C(=NC1)N(N=C2C2=C(C=CC=C2)OC)COCC[Si](C)(C)C)CC(=O)O | C26H30N4O5Si
